US06174889B1
(5[4(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl]-furan-2-carboxylic acid 2-methanesulphonyl-ethylamide hydrochloride
5-[4-(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl]-furan-2-carboxylic acid hydrochloride (0.125 g, 0.25 mmol) and carbonyl diimidazole (0.052 g, 0.33 mmol) were suspended in dry THF (3 ml) under a nitrogen atmosphere and stirred at room temperature for 7 hours. 2-(Methanesulphonyl)ethylamine hydrochloride (0.080 g, 0.50 mmol) and triethylamine (0.15 ml, 0.11 g, 1.08 mmol) were added, together with further THF (2 ml), and the resulting mixture was stirred at room temperature for 18 hours. The mixture was absorbed onto silica gel and purified by column chromatography, eluting with 2-10% MeOH/DCM. Concentration of the relevant fractions gave a pale yellow solid. This was resuspended in methanol and treated with ethanolic HCl to give the product as an orange solid, which was collected by filtration, washed with methanol, acetone and ether, and dried in vacuo (0.093 g, 0.154 mmol, 61%); δH [2H6]DMSO 12.00(1H,s), 9.76(1H,s), 9.19-9.29 (2H,m), 8.75 (1H,s), 8.28 (1H,s), 8.22 (1H,s), 7.78-7.90 (2H,m), 7.23-7.38 (7H,m), 5.71 (2H,s), 3.50-3.90 (2H obscured by water signal), 3.48 (2H,t), 3.07 (3H,s); m/z (M+1+) 568.

reactant | 5-[4-(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl]-furan-2-carboxylic acid hydrochloride | 0.25 mmol, 0.125 g | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C(=O)O
reactant | carbonyl diimidazole | 0.33 mmol, 0.052 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-(Methanesulphonyl)ethylamine hydrochloride | 0.50 mmol, 0.080 g | Cl.CS(=O)(=O)CCN
reactant | triethylamine | 1.08 mmol, 0.15 ml, 0.11 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5[4(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl]-furan-2-carboxylic acid 2-methanesulphonyl-ethylamide hydrochloride | Cl.CS(=O)(=O)CCNC(=O)C=1OC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)CC2=CC=CC=C2)C=N1 | InChI=1S/C29H25N7O4S.ClH/c1-41(38,39)12-11-30-29(37)27-10-9-26(40-27)23-14-22-24(16-31-23)32-18-33-28(22)35-21-7-8-25-20(13-21)15-34-36(25)17-19-5-3-2-4-6-19;/h2-10,13-16,18H,11-12,17H2,1H3,(H,30,37)(H,32,33,35);1H
